US04440646
166.2 grams (1 mole) triethyl phosphate was added dropwise with stirring to 78.4 grams (1 mole) of acetyl chloride over a period of 30 minutes at a temperature of 30° to 35° C. maintained by cooling. Ethyl chloride was evolved. The temperature was increased to 60° C. over the next 1 hour and 15 minutes, at which time the evolution of ethyl chloride was complete. The product was distilled under vaccum yielding 176 grams of diethyl acetylphosphonate (DEAP) in 98% yield, B.P. about 80° C. at 5 mm. and having a refractive index of 1.4240 at 200° C.

reactant | triethyl phosphate | 1 mole, 166.2 grams | P(=O)(OCC)(OCC)OCC | C6H15O4P
reactant | acetyl chloride | 1 mole, 78.4 grams | C(C)(=O)Cl | C2H3ClO
reactant | Ethyl chloride | C(C)Cl | C2H5Cl
product | diethyl acetylphosphonate | 176 grams, 98% yield | C(C)(=O)P(OCC)(OCC)=O | C6H13O4P
